US05607930
A solution of 3 g of BOC-(L)-prolinol in 100 ml of anhydrous THF, cooled at 0° C. with water/ice, under stirring and inert gas atmosphere, is added with 2.9 g of carbonyldiimidazole in portions, then the reaction mixture is warmed to room temperature and stirring is continued for 3 hours. Said solution is added with 4.5 g of N-[2,6-bis(pyrrolidin-1-yl)pyrimidin-4-yl]piperazine in portions and stirring is continued for 18 hours. The reaction mixture is added with 400 ml of an aqueous saturated solution of sodium dihydrogen phosphate and extracted with ethyl acetate (3×100 ml). The combined organic extracts are dried over sodium sulfate and the solvent is evaporated off under reduced pressure. The residue (7.5 g) is purified by silica gel chromatography (eluent hexane/ethyl acetate 7:3), to obtain 5.5 g of (-)-N'-[(1-(tertbutoxycarbonyl) pyrrolidin-2-yl) methyloxycarbonyl]-N-[2,6-bis(pyrrolidin -1-yl)pyrimidin -4 -yl]piperazine, m.p. 147° C., [(α]D-32'(c=0.25 in EtOH).

reactant | BOC-(L)-prolinol | 3 g | C(=O)(OC(C)(C)C)N1[C@H](CO)CCC1 | C10H19NO3
reactant | carbonyldiimidazole | 2.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-[2,6-bis(pyrrolidin-1-yl)pyrimidin-4-yl]piperazine | 4.5 g | N1(CCCC1)C1=NC(=CC(=N1)N1CCNCC1)N1CCCC1 | C16H26N6
reactant | sodium dihydrogen phosphate | P(=O)(O)(O)[O-].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (-)-N'-[(1-(tertbutoxycarbonyl) pyrrolidin-2-yl) methyloxycarbonyl]-N-[2,6-bis(pyrrolidin -1-yl)pyrimidin -4 -yl]piperazine | 5.5 g | C(C)(C)(C)OC(=O)N1C(CCC1)COC(=O)N1CCN(CC1)C1=NC(=NC(=C1)N1CCCC1)N1CCCC1 | C27H43N7O4
